US05604252
(2SR, 3SR, 4RS)-2-diphenylmethyl-3-[(2-methoxy-5-(methylethyl)phenyl)methylamino]-4-(2-dimethylaminocarbamoyl-ethyl)pyrrolidine
A solution of 100 mg (0.272 mmol) [(2SR, 3SR, 4RS)-2-diphenylmethyl-3-amino-4-(2-dimethylaminocarbamoylethyl)pyrrolidine](the product of Example 26B) in 25 ml of dichloroethane was treated with 48 mg (0.272 mmol) of 2-methoxy-5isopropylbenzaldehyde and 81 mg (0.381 mmol) of sodium triacetoxyborohydride. The reaction mixture was stirred for 18 hours and then quenched with 15 ml of saturated aqueous sodium bicarbonate. The reaction mixture was extracted with methylene chloride and the organic phase was washed with brine, dried and evaporated. The residue was chromatographed on silica gel eluting with 97/2/1 (methylene chloride/methanol/ammonia) to afford 89 mg (62%) of the title compound.

reactant | 2-diphenylmethyl-3-amino-4-(2-dimethylaminocarbamoylethyl)pyrrolidine | C1(=CC=CC=C1)C(C1NCC(C1N)CCC(NN(C)C)=O)C1=CC=CC=C1 | C22H30N4O
reactant | 2-methoxy-5isopropylbenzaldehyde | 0.272 mmol, 48 mg | COC1=C(C=O)C=C(C=C1)C(C)C | C11H14O2
reactant | sodium triacetoxyborohydride | 0.381 mmol, 81 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
product | 2-diphenylmethyl-3-[(2-methoxy-5-(methylethyl)phenyl)methylamino]-4-(2-dimethylaminocarbamoyl-ethyl)pyrrolidine | 89 mg, 62% | C1(=CC=CC=C1)C(C1NCC(C1NCC1=C(C=CC(=C1)C(C)C)OC)CCC(NN(C)C)=O)C1=CC=CC=C1 | C33H44N4O2
